US04710573
1-(4-Methoxybenzoyl)-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride
A solution of 3.0 g of 3-(1-methyl-4-piperidinyl)-1H-indazole in 10 ml of p-anisoyl chloride was heated at 100° C. for 3 hr. The reaction mixture was cooled to ambient temperature, ether was added and the solid was collected. The solid, suspended in ether, was stirred for 16 hr. The mixture was filtered, and dried. Recrystallization from ethanol (twice) yielded 4.0 g (74.4%) of product, mp 235°-237° C.

reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 3.0 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | ether | CCOCC | C4H10O
reactant | p-anisoyl chloride | 10 ml | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | 1-(4-Methoxybenzoyl)-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride | 4.0 g, 74.4% | Cl.COC1=CC=C(C(=O)N2N=C(C3=CC=CC=C23)C2CCN(CC2)C)C=C1 | InChI=1S/C21H23N3O2.ClH/c1-23-13-11-15(12-14-23)20-18-5-3-4-6-19(18)24(22-20)21(25)16-7-9-17(26-2)10-8-16;/h3-10,15H,11-14H2,1-2H3;1H
